US09278973B2
To a solution of hydrazinecarboximidamide bicarbonate salt (2.3 g, 31.05 mmol) in pyridine (70 ml) was added dropwise 4-chlorobenzoyl chloride (4.5 g, crude) in DCM (20 ml). After stirring overnight at 15° C., the resulting mixture was concentrated under vacuum, quenched by the addition of water (20 ml) and adjusted to pH 13 with sodium hydroxide solution (10N). The product was collected by filtration and dried to give 2-(4-chlorobenzoyl)hydrazinecarboximidamide as a white solid (2.1 g, crude).

reactant | hydrazinecarboximidamide bicarbonate salt | 31.05 mmol, 2.3 g | C(O)(O)=O.N(N)C(N)=N
reactant | 4-chlorobenzoyl chloride | 4.5 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-chlorobenzoyl)hydrazinecarboximidamide | ClC1=CC=C(C(=O)NNC(N)=N)C=C1 | C8H9ClN4O
